US04791133
1-(p-bromophenyl)-1-nonanol
In a 100 ml round bottom flask with a Y-adapter, condensor, and a 10 ml addition funnel was added 0.38 g (15.63 mmol) of Mg turnings which had been ground with a mortar and pestle. The apparatus was then flushed with argon and flamed dried. After allowing the apparatus to cool under argon, 4 ml of anhydrous diethyl ether was added to the Mg. While vigorously stirring the Mg in the ether, 2.52 g (13.05 mmol) of 1-bromooctane in 3 ml of diethyl ether was added dropwise. After 5 drops, the Grignard reaction started and the addition was continued at a rate sufficient to maintain a steady reflux. After addition was complete, 4 ml of dry THF was added to the Grignard reagent and it was stirred at R.T. for an additional 1/2 hour. A warm water bath was then placed under the flask, and refluxing was continued for 15 minutes. Afterwards, the reaction was cooled to 0° C. with an ice bath and 2.00 g (16.81 mmol) of p-bromobenzaldehyde in 4 ml of THF was added. The reaction was stirred at R.T. for 1.5 hr., whereupon the Grignard was quenched with saturated NH4Cl. The organic layer was washed with H2O and brine, then dried (MgSO4). Rotary evaporation of the solvent under reduced pressure produced 2.96 g of a crude yellow oil. The oil was dissolved in a diethyl ether and loaded onto a silica gel column. Elution with diethyl ether/hexane yielded 2.22 g of the titled product as a yellow oil.

reactant | 1-bromooctane | 13.05 mmol, 2.52 g | BrCCCCCCCC | C8H17Br
reactant | p-bromobenzaldehyde | 16.81 mmol, 2.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-(p-bromophenyl)-1-nonanol | 2.22 g | BrC1=CC=C(C=C1)C(CCCCCCCC)O | C15H23BrO
